* testskeem Chua dioodi iv-karakteristiku mootmiseks

R1 N003 N001 22K
R2 N002 N001 220
R3 N003 N006 22K
R5 0 N006 3.3K
R6 0 N005 2.2K
R7 N005 N002 220
Rsense N010 N001 10

V1 N008 0 dc -9
V2 N004 0 dc 9
V3 N010 0 0

XU1 N001 N005 N004 N008 N002 AD704
XU2 N001 N006 N004 N008 N003 AD704
.include ad704.txt

.options savecurrents

.control
dc V3 -9 +9 1m
.endc
.end