* testskeemi opvoimendi sisendnihkepinge maaramiseks

VCC vp 0 DC 9
VEE vn 0 DC -9

R3 inp 0 1k
R1 inn 0 1k
RF out inn 1meg
RL out 0 100k

XU1 inp inn vp vn out OP07
.include op07.txt

.op

.control
reset
run
let av = 1001
let vos = v(out)/av
print v(out)
print vos
.endc

.end

.end