* testskeem opvoimendi sisendvoolu maaramiseks

VCC vp 0 DC 9
VEE vn 0 DC -9

VINP inp 0 DC 0
VINN inn 0 DC 0

RL out 0 100k

XU1 inp inn vp vn out OP07
.include op07.txt

.op

.control
reset
run

let ibp = abs(i(VINP))
let ibn = abs(i(VINN))
let ibp_nA = 1e9*ibp
let ibn_nA = 1e9*ibn
let ib_avg_nA = 0.5*(ibp_nA + ibn_nA)

print i(VINP)
print i(VINN)
print ibp_nA
print ibn_nA
print ib_avg_nA
.endc

.end